US07612067B2
B. 1-{3-[3-Chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl}-butan-1-one.
A solution of 3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine (0.20 g, 0.58 mmol), N-methoxy-N-methyl-butylamide (Wolberg, M. et. al. Chem. Europ. J. 2001, 7, 4562) (0.084 g, 0.64 mmol) in THF (3 mL) is cooled to a −78° C., and a 2.0 M solution of LDA in heptane/THF/ethyl benzene (0.58 mL, 1.16 mmol) is added. The solution is warmed to ambient temperature, diluted with dichloromethane (20 mL), and washed with a sat. NH4Cl solution (15 mL). The organic layer is dried over MgSO4, filtered and concentrated. The residue is purified by ISCO flash chromatography (20%-100% EtOAc gradient) to furnish the title compound (0.11 g, 0.27 mmol, 46%). 1H-NMR (CDCl3), δ 1.04 (t, J=7.0 Hz, 3H), 1.76-1.86 (m, 2H), 2.56 (s, 3H), 2.59 (s, 3H), 3.51 (t, J=7.1 Hz, 2H), 4.15 (s, 3H), 7.36 (s, 1H), 7.49 (s, 1H), 7.90 (s, 1H) ppm. LC/MS (m/z): calcd. for C19H19ClN6OS (M+H)+: 415.1; found: 415.3.

reactant | 3-[3-chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazine | 0.58 mmol, 0.20 g | ClC1=C(SC(=C1)C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2)C)C | C15H13ClN6S
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | heptane THF ethyl benzene | 1.16 mmol, 0.58 mL | CCCCCCC.C1CCOC1.C(C)C1=CC=CC=C1
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 1-{3-[3-Chloro-5-(2-methyl-2H-[1,2,4]triazol-3-yl)-thiophen-2-yl]-2,6-dimethyl-imidazo[1,2-b]pyridazin-8-yl}-butan-1-one | 0.27 mmol, 0.11 g, 46% | ClC1=C(SC(=C1)C=1N(N=CN1)C)C1=C(N=C2N1N=C(C=C2C(CCC)=O)C)C | C19H19ClN6OS
